US09024027B2
To a solution of crude 2-(5-(N-(2-morpholinoethyl)methylsulfonamido)-1H-indol-1-yl)acetic acid 2,2,2-trifluoroacetate (150 mg, 0.303 mmol) in DCM, (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide (165 mg, 0.393 mmol), EDC (226 mg, 1.180 mmol) and DMAP (24.02 mg, 0.197 mmol) were added, and the resulting mixture was stirred overnight at room temperature. The solvent was removed, and the residue was purified by flash chromatography on silica gel (DCM/MeOH 95/5). The obtained compound was treated with 4N HCl in dioxane (30 ml) affording after evaporation of the volatiles (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)-phenyl)-2-(2-(5-(N-(2-morpholinoethyl)methylsulfonamido)-1H-indol-1-yl)acetoxy)ethyl)pyridine 1-oxide hydrochloride (76.3 mg, 0.093 mmol, 32% yield, MS/ESI+ 783.47 [MH]+, [αD]=−17.52, c=0.25 in DCM). 1H NMR (300 MHz, DMSO-d6+Na2CO3) δ ppm 8.50 (s, 2H), 7.34 (d, 1H), 7.07-7.23 (m, 5H), 6.89 (dd, 1H), 7.06 (t, 1H), 6.55 (d, 1H), 6.02 (dd, 1H), 5.25 (d, 1H), 5.10 (d, 1H), 3.91 (d, 2H), 3.77-3.85 (m, 2H), 3.46-3.52 (m, 4H), 3.39-3.47 (m, 1H), 3.16-3.25 (m, 1H), 3.09 (s, 3H), 2.30-2.36 (m, 2H), 2.24-2.31 (m, 4H), 1.10-1.24 (m, 1H), 0.52-0.67 (m, 2H), 0.23-0.47 (m, 2H).

reactant | 2-(5-(N-(2-morpholinoethyl)methylsulfonamido)-1H-indol-1-yl)acetic acid 2,2,2-trifluoroacetate | 0.303 mmol, 150 mg | FC(C(=O)O)(F)F.O1CCN(CC1)CCN(S(=O)(=O)C)C=1C=C2C=CN(C2=CC1)CC(=O)O
reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide | 0.393 mmol, 165 mg | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
reactant | EDC | 1.180 mmol, 226 mg
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.197 mmol, 24.02 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)-phenyl)-2-(2-(5-(N-(2-morpholinoethyl)methylsulfonamido)-1H-indol-1-yl)acetoxy)ethyl)pyridine 1-oxide hydrochloride | 0.093 mmol, 76.3 mg, 32% yield | Cl.ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C=CC2=CC(=CC=C12)N(S(=O)(=O)C)CCN1CCOCC1)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | InChI=1S/C35H38Cl2F2N4O8S.ClH/c1-52(46,47)43(11-10-40-12-14-48-15-13-40)26-5-6-30-24(16-26)8-9-41(30)21-34(44)50-32(18-27-28(36)19-42(45)20-29(27)37)25-4-7-31(51-35(38)39)33(17-25)49-22-23-2-3-23;/h4-9,16-17,19-20,23,32,35H,2-3,10-15,18,21-22H2,1H3;1H/t32-;/m0./s1
